US08791142B2
Step 1) cis-methyl 2-(3-chloro-5-cyanopyridin-2-ylamino)cyclopentanecarboxylate
A solution of cis-2-amino-1-cyclopentanecarboxylic acid (0.403 g; 3.12 mmol) and 2,2-dimethoxypropane (3 mL) in MeOH (5 mL) was treated with concentrated hydrochloric acid (2 mL). The reaction mixture was heated under reflux for 8 hours. The solvent was evaporated in vacuo. The residue was combined with 5,6-dichloronicotinonitrile (Bionet, 0.346 g; 2.00 mmol), DIEA (0.348 mL; 2.00 mmol) in MeCN (10 mL). The reaction mixture was heated under reflux for 24 hours. The reaction mixture was diluted with DCM and washed with water. The organic phase was passed through a hydrophobic frit and the solvent evaporated in vacuo. The residue was purified by flash chromatography on silica, eluting with iso-hexane/EtOAc (60 iso-hexane to 10 EtOAc) to afford the title product. 1H NMR (CDCl3, 400 MHz) δ 8.29 (1H, d, J=2 Hz), 7.61 (1H, d, J=2 Hz), 6.29 (1H, br d, J=7.6 Hz), 4.76-4.68 (1H, m), 3.63 (3H, s), 3.16-3.10 (1H, m), 2.16-1.78 (6H, m).

reactant | cis-2-amino-1-cyclopentanecarboxylic acid | 3.12 mmol, 0.403 g | N[C@@H]1[C@@H](CCC1)C(=O)O | C6H11NO2
reactant | 2,2-dimethoxypropane | 3 mL | COC(C)(C)OC | C5H12O2
reactant | hydrochloric acid | 2 mL | Cl | ClH
reactant | 5,6-dichloronicotinonitrile | 2.00 mmol, 0.346 g | ClC=1C(=NC=C(C#N)C1)Cl | C6H2Cl2N2
reactant | DIEA | 2.00 mmol, 0.348 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeCN | 10 mL | CC#N | C2H3N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | cis-methyl 2-(3-chloro-5-cyanopyridin-2-ylamino)cyclopentanecarboxylate | ClC=1C(=NC=C(C1)C#N)N[C@@H]1[C@@H](CCC1)C(=O)OC | C13H14ClN3O2
